US04547501
(d) Preparation of 6-chloro-2-hydrazino-3-methoxyquinoxaline
A mixture of 4.9 g. (0.02 mole) of 2,6-dichloro-3-methoxyquinoxaline and 2.7 g. (0.053 mole) of hydrazine hydrate (2.6 ml.) in 75 ml. of ethanol was stirred at room temperature overnight (i.e., at ca. 20° C. for approximately 16 hours). Upon completion of this step, the resulting mixture was filtered and the recovered precipitate was washed with ethanol to ultimately afford 4.4 g. (98%) of pure 6-chloro-2-hydrazino-3-methoyquinoxaline, m.p. 175°-179° C. (decomp.). Mass Spectrum: m/e, 224 (P); m/e, 226 (P+2).

reactant | 2,6-dichloro-3-methoxyquinoxaline | 0.02 mole | ClC1=NC2=CC=C(C=C2N=C1OC)Cl | C9H6Cl2N2O
reactant | hydrazine hydrate | 0.053 mole, 2.6 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-2-hydrazino-3-methoxyquinoxaline | ClC=1C=C2N=C(C(=NC2=CC1)NN)OC | C9H9ClN4O
